US06916822B2
(d) 4-(4,4-Dimethyloxazolin-2-yl)benzyl alcohol
4-(4,4-Dimethyloxazolin-2-yl)-1-(formyloxymethyl)benzene (37 mg) was dissolved in methanol (0.4 ml), added with 1 N aqueous sodium hydroxide (0.18 ml) and stirred at room temperature for 20 minutes. The reaction mixture was added with water (5 ml) and extracted twice with ethyl acetate (5 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by preparative thin layer silica gel column chromatography (developing solvent: hexane:ethyl acetate=1:2) to obtain 17.7 mg of the title compound. Yield: 54%.

reactant | 4-(4,4-Dimethyloxazolin-2-yl)-1-(formyloxymethyl)benzene | 37 mg | CC1(N=C(OC1)C1=CC=C(C=C1)COC=O)C | C13H15NO3
reactant | sodium hydroxide | 1 N, 0.18 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | methanol | 0.4 ml | CO | CH4O
product | 4-(4,4-Dimethyloxazolin-2-yl)benzyl alcohol | 17.7 mg, Yield: 54% | CC1(N=C(OC1)C1=CC=C(CO)C=C1)C | C12H15NO2
